US07288528B2
2-(4-Methoxybenzyl)phenol 7
0.78 g of (2-hydroxyphenyl)(4-methoxyphenyl)methanone is dissolved in acetonitrile and cooled to 0° C. 2 ml of TMSCl are added dropwise to the mixture, and then 1 g of sodium cyanoborohydride is added. The mixture is stirred at room temperature for 3 h. The reaction solution is diluted with dichloromethane and filtered through Celite.

reactant | (2-hydroxyphenyl)(4-methoxyphenyl)methanone | 0.78 g | OC1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)OC | C14H12O3
reactant | TMSCl | 2 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium cyanoborohydride | 1 g | C(#N)[BH3-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-Methoxybenzyl)phenol | COC1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C14H14O2
